US04175203
The synthesis of this compound is carried out as described in Example 1, except that in Step B(1) an equivalent amount of 1,1,1-trifluoro-5-bromopentane is substituted for amyl bromide. The product of Step B(1) thus becomes 1-chloro-9,9,9-trifluoro-4-nonanone. Subsequent steps afford in order: Step B(2), 1-chloro-9,9,9-trifluoro-4-nonanol; Step B(3), 1-chloro-4-acetoxy-9,9,9-trifluorononane; Step C, ethyl 4-(4-tert-butoxycarbonyl-5-oxohexyl)benzoate; Step D, ethyl 4-(4-acetyl-4-tert-butoxycarbonyl-8-acetoxy-13,13,13-trifluorotridecyl)benzoate (by substituting 1-chloro-4-acetoxy-9,9,9-trifluorononane for 1-chloro-4-acetoxynonane); Step E, ethyl 4-(4-acetyl-8-acetoxy-13,13,13-trifluorotridecyl)benzoate; and Step F, 4-(4-acetyl-8-hydroxy-13,13,13-trifluorotridecyl)benzoic acid, obtained as a viscous yellow oil.

reactant | 1,1,1-trifluoro-5-bromopentane | FC(CCCCBr)(F)F | C5H8BrF3
reactant | amyl bromide | C(CCCC)Br | C5H11Br
reactant | 1-chloro-9,9,9-trifluoro-4-nonanone | ClCCCC(CCCCC(F)(F)F)=O | C9H14ClF3O
reactant | 1-chloro-9,9,9-trifluoro-4-nonanol | ClCCCC(CCCCC(F)(F)F)O | C9H16ClF3O
reactant | 1-chloro-4-acetoxy-9,9,9-trifluorononane | ClCCCC(CCCCC(F)(F)F)OC(C)=O | C11H18ClF3O2
reactant | ethyl 4-(4-tert-butoxycarbonyl-5-oxohexyl)benzoate | C(C)(C)(C)OC(=O)C(CCCC1=CC=C(C(=O)OCC)C=C1)C(C)=O | C20H28O5
reactant | ethyl 4-(4-acetyl-4-tert-butoxycarbonyl-8-acetoxy-13,13,13-trifluorotridecyl)benzoate | C(C)(=O)C(CCCC1=CC=C(C(=O)OCC)C=C1)(CCCC(CCCCC(F)(F)F)OC(C)=O)C(=O)OC(C)(C)C | C31H45F3O7
reactant | ethyl 4-(4-acetyl-8-acetoxy-13,13,13-trifluorotridecyl)benzoate | C(C)(=O)C(CCCC1=CC=C(C(=O)OCC)C=C1)CCCC(CCCCC(F)(F)F)OC(C)=O | C26H37F3O5
product | 4-(4-acetyl-8-hydroxy-13,13,13-trifluorotridecyl)benzoic acid | C(C)(=O)C(CCCC1=CC=C(C(=O)O)C=C1)CCCC(CCCCC(F)(F)F)O | C22H31F3O4
